US08623887B2
The chiral compound (1S,2R)-2-aminocyclopentane-carboxylic acid isopropylamide is prepared analogously to this procedure using (1S,2R)-2-aminocyclopentanecarboxylic acid. In addition, a number of amides are prepared in this way starting from 2-aminocyclopentanecarboxylic acid (racemic or chiral).

reactant | (1S,2R)-2-aminocyclopentanecarboxylic acid | N[C@H]1[C@H](CCC1)C(=O)O | C6H11NO2
reactant | 2-aminocyclopentanecarboxylic acid | NC1C(CCC1)C(=O)O | C6H11NO2
product | (1S,2R)-2-aminocyclopentane-carboxylic acid isopropylamide | C(C)(C)NC(=O)[C@@H]1[C@@H](CCC1)N | C9H18N2O
